US08426447B2
A vial was charged with (R)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (102 mg, 0.158 mmol), copper(i) iodide (3.01 mg, 0.016 mmol), tetrakis(triphenylphosphine)palladium (18.24 mg, 0.016 mmol), and lithium chloride (10.96 mg, 1.579 mmol). The vial was purged with Ar (g), then DMF (790 μL) and 4-(tributylstannyl)pyridazine (146 μL, 0.474 mmol) were added in sequence. The vial was sealed and placed in a 110° C. oil bath for 4 hours. The mixture loaded onto a 2-g SCX-2 column and eluted 4× with methanol to remove impurities. The product was then eluted with 2M ammonia in methanol. The filtrate was evaporated, and the residue was chromatographed on a 40-g Redi-Sep column, eluting with 0-100% EtOAc/Hexane, then with 0-10% MeOH/DCM. The resulting material was still impure, so the material was dissolved in methanol and purified by reverse-phase HPLC (15-80% CH3CN/H2O with 0.1% TFA). The fractions containing product were combined in saturated aq. sodium bicarbonate solution with the aid of methanol and extracted with DCM (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated to give (R)-3-(3-methoxy-3-methylbut-1-ynyl)-7-(pyridazin-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a white solid.

reactant | (R)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 0.158 mmol, 102 mg | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@]21N=C(OC1)N)C#CC(C)(C)OC)F | C24H18F9N3O6S
reactant | lithium chloride | 1.579 mmol, 10.96 mg | [Cl-].[Li+]
reactant | 4-(tributylstannyl)pyridazine | 0.474 mmol, 146 μL | C(CCC)[Sn](C1=CN=NC=C1)(CCCC)CCCC
catalyst | copper(i) iodide | 0.016 mmol, 3.01 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.016 mmol, 18.24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 790 μL | CN(C)C=O | C3H7NO
product | (R)-3-(3-methoxy-3-methylbut-1-ynyl)-7-(pyridazin-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | COC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21N=C(OC1)N)C1=CN=NC=C1)(C)C | C24H21N5O3
